US03998951
A mixture of 7.43 g of 2-(4-ethylphenyl)quinazolin-4(3H)-one and 50 ml of thionyl chloride was treated with 2.17 g of dimethylformamide as described in Example I. The solid was recrystallized twice from petroleum ether (60°-110° fraction) to give 4.23 g of light-colored 4-chloro-2-(4-ethylphenyl)quinazoline, m.p. 75.5°-76.5°; ir and nmr spectra were consistent with the assigned structure.

reactant | 2-(4-ethylphenyl)quinazolin-4(3H)-one | 7.43 g | C(C)C1=CC=C(C=C1)C1=NC2=CC=CC=C2C(N1)=O | C16H14N2O
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 2.17 g | CN(C=O)C | C3H7NO
product | 4-chloro-2-(4-ethylphenyl)quinazoline | 4.23 g | ClC1=NC(=NC2=CC=CC=C12)C1=CC=C(C=C1)CC | C16H13ClN2
